US07655643B2
Diethyl [(tert-butoxycarbonyl)amino](3-iodobenzyl )malonate
25 g (84.2 mmol) of 3-iodobenzyl bromide are added to a solution of 24.3 g (88.4 mmol) of diethyl [(tert-butoxycarbonyl)amino]malonate and 3.7 g (92.6 mmol) of sodium hydride in 300 ml of DMF while cooling in ice. After stirring the mixture at RT for 4 h, 5 ml of water are added cautiously while cooling in ice. The mixture is extracted several times with ethyl acetate, and the combined organic phases are washed with a saturated sodium chloride solution and water, dried over magnesium sulfate and concentrated in vacuo. The crude product is dried under high vacuum.

reactant | 3-iodobenzyl bromide | 84.2 mmol, 25 g | IC=1C=C(CBr)C=CC1 | C7H6BrI
reactant | diethyl [(tert-butoxycarbonyl)amino]malonate | 88.4 mmol, 24.3 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)OCC | C12H21NO6
reactant | sodium hydride | 92.6 mmol, 3.7 g | [H-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | Diethyl [(tert-butoxycarbonyl)amino](3-iodobenzyl )malonate | C(C)(C)(C)OC(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC(=CC=C1)I | C19H26INO6
